US06468998B1
(S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide and 2-(4-bromophenyl)ethyl p-toluenesulfonate were reacted under the same conditions as in Example 6 to give (S)-N-(1-(2-(4-bromophenyl)ethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide.

reactant | (S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide | N1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C15H24N2O
reactant | 2-(4-bromophenyl)ethyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCC1=CC=C(C=C1)Br)C | C15H15BrO3S
product | (S)-N-(1-(2-(4-bromophenyl)ethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide | BrC1=CC=C(C=C1)CCN1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C23H31BrN2O
